US04028370
Synthesis of 3-(N,N-dimethylcarbamoyl)-2-isopropylpyrazolo[1,5-a]pyridine (KC-578)
A mixture of 1.6g of 2-isopropylpyrazolo[1,5-a]pyridine and 2.1g of N,N-dimethylcarbamoyl chloride was dissolved in 20 ml of nitrobenzene. Four grams of aluminum chloride (powder) was added at room-temperature to the resulting solution and reaction mixture was refluxed for 8 hr and concentrated under reduced pressure. Water was added to the residue and the mixture was made basic with potassium hydroxide solution, extracted with chloroform. The chloroform solution was dried over sodium sulfate and concentrated. The residue was column chromatographed over aluminum to give objective product. Distillation gave colorless oil, bp 175° (2 mmHg). Yield 1.1g (50%).

reactant | 2-isopropylpyrazolo[1,5-a]pyridine | 1.6g | C(C)(C)C1=NN2C(C=CC=C2)=C1 | C10H12N2
reactant | N,N-dimethylcarbamoyl chloride | 2.1g | CN(C(=O)Cl)C | C3H6ClNO
reactant | aluminum chloride | Four grams | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | nitrobenzene | 20 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 3-(N,N-dimethylcarbamoyl)-2-isopropylpyrazolo[1,5-a]pyridine | CN(C(=O)C=1C(=NN2C1C=CC=C2)C(C)C)C | C13H17N3O
